US07994317B2
d) Preparation of cis-N-[(2,4-dichlorophenyl)methyl]-4-{[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide
A solution of 4-{[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid (150 mg, 0.43 mmol), [(2,4-dichlorophenyl)methyl]amine (95 mg, 0.54 mmol) and DMAP (8 mg, 0.06 mmol) in DCM was stirred at room temperature. To this was added EDCl (90.8 mg, 0.47 mmol) and the resulting mixture was allowed to stir overnight. The solution was washed with water. The organic layer was dried and purified by HPLC to afford 78 mg (36% yield) of the product as a white solid. MS (ES+): m/e 507.1 [M+H]+.

reactant | 4-{[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid | 0.43 mmol, 150 mg | CNC1=NC(=NC(=N1)N1CCN(CC1)C)NC1CCC(CC1)C(=O)O | C16H27N7O2
reactant | [(2,4-dichlorophenyl)methyl]amine | 0.54 mmol, 95 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
reactant | EDCl | 0.47 mmol, 90.8 mg | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 0.06 mmol, 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | cis-N-[(2,4-dichlorophenyl)methyl]-4-{[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide | 78 mg, 36% yield | ClC1=C(C=CC(=C1)Cl)CNC(=O)[C@@H]1CC[C@@H](CC1)NC1=NC(=NC(=N1)NC)N1CCN(CC1)C | C23H32Cl2N8O
